Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.520535606192
[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.14473405695
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.7707822021
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.70820242352
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]#[C:4]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-2.66175226642
[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.7615150220599998
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.88332049239
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-6.527389171779999
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]1[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:7](/[C:6]=[O:5])[H:8],-2.14761615605
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16],4.83387797725
[C:3]([H:4])(=[C:7]=[C:5]([H:6])[C:11]([H:12])[H:13])[H:10].[H:1][C:2]#[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],1.97342332846
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.71229403438
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.3458660244
[H:1][O:2][C:3][C:4]#[C:6][O:7][H:8].[H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-2.38158622278
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],6.33945925095
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([H:4])=[O:5],0.00768137898058
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],3.81626893815
[H:7].[O:1]1/[C:2](=[C:5](/[H:6])[C:8]([H:9])([H:10])[H:11])[C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.8094388988700003
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3][H:4].[H:1][C:2]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],2.06503267294
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.3505575027
[C:1]([H:4])#[C:5][H:6].[C:2](#[C:3])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.18116850838
[C:3]([H:4])(=[C:7]=[C:5]([H:6])[C:11]([H:12])([H:13])[H:14])[H:10].[H:1][C:2]#[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.27388731285
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.604181173730001
[H:6].[O:1]=[C:2][O:3][C:4](=[C:5])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.41352045916
[C:4]([H:5])([H:6])[H:10].[H:1][C:2]#[C:3][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.5356208431800003
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8].[H:9],2.06036015218
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],6.51769821439
[O:1]=[C:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:2]=[O:10].[O:1](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[H:11],-1.8828493442200005
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.99608731832
[H:9].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-3.72285128077
